US05705188
In 60 ml of pyridine was dissolved 2.75 g (0.013 mol) of 2-O-(t-butyldimethylsilyl)glycerol, followed by addition of 8.82 g (0.028 mol) of oleoyl chloride under ice-cooling. The reaction was conducted at 50° C. for 15 hours. After completion of the reaction, the solvent was distilled off and the residue was diluted with methylene chloride, washed with saturated aqueous sodium hydrogen carbonate solution, dried, and concentrated. The above procedure provided 1,3-O-dioleoyl-2-O-(t-butyldimethylsilyl)glycerol.

reactant | 2-O-(t-butyldimethylsilyl)glycerol | 0.013 mol, 2.75 g | [Si](C)(C)(C(C)(C)C)OC(CO)CO | C9H22O3Si
reactant | oleoyl chloride | 0.028 mol, 8.82 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-O-dioleoyl-2-O-(t-butyldimethylsilyl)glycerol | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O[Si](C)(C)C(C)(C)C)COC(CCCCCCC\C=C/CCCCCCCC)=O | C45H86O5Si
